US07919628B2
138 mg 2-{[3-(Benzothiazol-2-ylmethoxy)-5-fluoro-benzo[b]thiophene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester in 2 ml methanol and 1 ml 1M aqueous sodium hydroxide solution was refluxed for 0.5 h. The reaction was acidified with 2 M hydrochloric acid, and the precipitated product was collected by filtration, dissolved in ethyl acetate, dried over sodium sulphate adding also active charcoal, filtrated, concentrated in vacuo, and the resulting crude product was crystallized from diethyl-ether to yield 0.08 g 2-{[3-(Benzothiazol-2-ylmethoxy)-5-fluoro-benzo[b]thiophene-2-carbonyl]-amino}-2-methyl-propionic acid.

reactant | 2-{[3-(Benzothiazol-2-ylmethoxy)-5-fluoro-benzo[b]thiophene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 138 mg | COC(C(C)(C)NC(=O)C1=C(C2=C(S1)C=CC(=C2)F)OCC=2SC1=C(N2)C=CC=C1)=O | C22H19FN2O4S2
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | sodium hydroxide | 1M, 1 ml | [OH-].[Na+]
product | 2-{[3-(Benzothiazol-2-ylmethoxy)-5-fluoro-benzo[b]thiophene-2-carbonyl]-amino}-2-methyl-propionic acid | 0.08 g | S1C(=NC2=C1C=CC=C2)COC=2C1=C(SC2C(=O)NC(C(=O)O)(C)C)C=CC(=C1)F | C21H17FN2O4S2
